US09238631B2
To 0.47 g (1 mmol) (4S)—N-(tert-butoxycarbonyl)-4-(4-hydroxybenzyl)-L-glutamate and 0.47 g (1 mmol) [(4S,5S)-2,2-dimethyl-1,3-dioxolane-4,5-diyl]dimethanediyl bis(4-methylbenzenesulfonate) in 15 mL DMF was added potassium carbonate (0.28 g, 2 mmol). The mixture was heated in a microwave for 2 h at 100° C. Water was added and the mixture was extracted with dichloromethane. The organic phase was dried over sodium sulfate, filtered and concentrated. The crude product was purified by flash chromatography (silica, 20% ethyl acetate in hexane) to afford 0.25 g (33%) di-tert-butyl (4S)—N-(tert-butoxycarbonyl)-4-(4-{[(4S,5S)-2,2-dimethyl-5-({[(4-methylphenyl)sulfonyl]oxy}methyl)-1,3-dioxolan-4-yl]methoxy}benzyl)-L-glutamate.

reactant | (4S)—N-(tert-butoxycarbonyl)-4-(4-hydroxybenzyl)-L-glutamate | 1 mmol, 0.47 g | C(C)(C)(C)OC(=O)N[C@@H](C[C@@H](C(=O)[O-])CC1=CC=C(C=C1)O)C(=O)[O-]
reactant | [(4S,5S)-2,2-dimethyl-1,3-dioxolane-4,5-diyl]dimethanediyl bis(4-methylbenzenesulfonate) | 1 mmol, 0.47 g | CC1=CC=C(C=C1)S(=O)(=O)OC[C@@H]1OC(O[C@H]1COS(=O)(=O)C1=CC=C(C=C1)C)(C)C | C21H26O8S2
reactant | potassium carbonate | 2 mmol, 0.28 g | C([O-])([O-])=O.[K+].[K+]
reactant | Water | O | H2O
solvent | DMF | 15 mL | CN(C)C=O | C3H7NO
product | di-tert-butyl (4S)—N-(tert-butoxycarbonyl)-4-(4-{[(4S,5S)-2,2-dimethyl-5-({[(4-methylphenyl)sulfonyl]oxy}methyl)-1,3-dioxolan-4-yl]methoxy}benzyl)-L-glutamate | 0.25 g, 33% | C(C)(C)(C)OC(=O)N[C@@H](C[C@@H](C(=O)OC(C)(C)C)CC1=CC=C(C=C1)OC[C@@H]1OC(O[C@H]1COS(=O)(=O)C1=CC=C(C=C1)C)(C)C)C(=O)OC(C)(C)C | C39H57NO12S
